US07741490B2
2-Amino-4,5,6,7-tetrahydro-benzothiazole-6-carboxylic acid ethyl ester hydrobromide [(III), R1=ethyl]
A 3 liter reactor equipped with mechanical stirrer, thermometer and condenser was loaded with 1500 ml of ethanol and 200 g of 4-oxo-cyclohexanecarboxylic acid ethyl ester. After cooling to 0° C., 188 g of bromine were dropped therein in about 1 hour. The temperature was raised to 10° C., then to the room one after discolouration. After 1 hour, 89.32 g of thiourea were added in portions to obtain a suspension, that was refluxed to obtain gradual dissolution of the solid. After 4 hours the solution was concentrated to small volume to obtain a solid mass, that was suspended in 800 ml of acetone and refluxed to obtain a solution. The solution was then cooled to room temperature to precipitate a solid, then to 0° C. and after 4 hours the solid was filtered, washed twice with 100 ml of cold acetone and dried to obtain 170 g of the title product.

reactant | ethanol | 1500 ml | C(C)O | C2H6O
reactant | 4-oxo-cyclohexanecarboxylic acid ethyl ester | 200 g | C(C)OC(=O)C1CCC(CC1)=O | C9H14O3
reactant | bromine | 188 g | BrBr | Br2
reactant | thiourea | 89.32 g | NC(=S)N | CH4N2S
solvent | acetone | 800 ml | CC(=O)C | C3H6O
product | 2-Amino-4,5,6,7-tetrahydro-benzothiazole-6-carboxylic acid ethyl ester hydrobromide | 170 g | Br.C(C)OC(=O)C1CC2=C(N=C(S2)N)CC1 | InChI=1S/C10H14N2O2S.BrH/c1-2-14-9(13)6-3-4-7-8(5-6)15-10(11)12-7;/h6H,2-5H2,1H3,(H2,11,12);1H
